US05264438
A mixture of 2-amino-4-nitro-N-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]benzamide (0.52 g) and carbonyldiimidazole (0.43 g) in dry tetrahydrofuran (10 ml) was stirred under reflux for 2 hours. After evaporation of the solvent, the crude residue was crystallized and recrystallized from ethanol to give crystals of 7-nitro-3-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-1,2,3,4-tetrahydroquinazoline-2,4-dione (0.32 g).

reactant | 2-amino-4-nitro-N-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]benzamide | 0.52 g | NC1=C(C(=O)NCCCCN2CCC(=CC2)C2=CC=CC=C2)C=CC(=C1)[N+](=O)[O-] | C22H26N4O3
reactant | carbonyldiimidazole | 0.43 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 7-nitro-3-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-1,2,3,4-tetrahydroquinazoline-2,4-dione | 0.32 g | [N+](=O)([O-])C1=CC=C2C(N(C(NC2=C1)=O)CCCCN1CCC(=CC1)C1=CC=CC=C1)=O | C23H24N4O4
